US04169109
PREPARATION OF 2,8,12-TRIMETHYL-5,7,11-TRIDECATRIEN-4-ONE
Into a 2 liter autoclave are charged citral (152 grams), methyl isobutyl ketone (500 grams) and zinc acetate dihydrate (38 grams). The reaction mixture is heated at 160° C. for a period of 12 hours. After filtering the catalyst the organic layer is washed with 10% salt solution. Distillation yielding 76 grams (32% yield) of the product, B.P. 126°-141° C./1 mmHg.

reactant | citral | 152 grams | CC(C)=CCCC(C)=CC=O | C10H16O
reactant | methyl isobutyl ketone | 500 grams | C(C(C)C)C(=O)C | C6H12O
catalyst | zinc acetate dihydrate | 38 grams | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | 2,8,12-TRIMETHYL-5,7,11-TRIDECATRIEN-4-ONE | 76 grams, 32% yield | CC(C)CC(C=CC=C(CCC=C(C)C)C)=O | C16H26O
